US04031127
30. 2-(4-Aminophenyl)-1-trifluoroacetylhydrazine
2-(4-Nitrophenyl)-1-trifluoroacetylhydrazine (2.5 g, 0.01 mole) and platinum oxide (84%, catalytic amount) were mixed in ethanol (100 ml) and ethyl acetate (100 ml) in a Parr shaker bottle. The reaction mixture was hydrogenated at room temperature until hydrogen uptake ceased. The reaction mixture was filtered and the solvent was evaporated from the filtrate leaving a brown semisolid. Yield 2.0 g (91%), no m.p. was taken on this material. Spectral data verified its structure.

reactant | 2-(4-Nitrophenyl)-1-trifluoroacetylhydrazine | 0.01 mole, 2.5 g | [N+](=O)([O-])C1=CC=C(C=C1)NNC(C(F)(F)F)=O | C8H6F3N3O3
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | platinum oxide | [Pt]=O
product | 2-(4-Aminophenyl)-1-trifluoroacetylhydrazine | NC1=CC=C(C=C1)NNC(C(F)(F)F)=O | C8H8F3N3O
